US07960365B2
(R)—N-{1-[4-(2-Chloro-5-fluoro-pyridin-3-yl)-phenyl]-ethyl}-3,4-difluoro-benzenesulfonamide
To a solution of (R)-2-[1-(4-bromo-phenyl)-ethyl]-isoindole-1,3-dione (1.19 g, 3.6 mmol) (Example 26) in 1,2-dimethoxyethane (3 ml) was added 2-chloro-5-fluoropyridine-3-boronic acid (0.95 g, 5.4 mmol), tetrakis(triphenylphosphine)palladium (0) (0.21 g, 0.2 mmol) and 2M aqueous sodium carbonate (3.2 ml, 6.4 mmol). The reaction mixture was heated in a microwave oven at 150° C. for 10 min and the solvent evaporated. The residue was partitioned between ethyl acetate and water. The organic phase washed with brine, dried over anhydrous magnesium sulfate and the solvent evaporated. The residue was purified over silica gel eluting with heptane/ethyl acetate to give (R)-2-{1-[4-(2-chloro-5-fluoro-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (0.62 g, 1.6 mmol, 44%) as a clear glass. To a solution of (R)-2-[1-(4-bromo-phenyl)-ethyl]-isoindole-1,3-dione (0.16 g, 0:4 mmol) in methanol (4 ml) was added hydrazine hydrate (0.43 g, 8.6 mmol). The reaction mixture was stirred at room temperature for 18 h and then concentrated under reduced pressure. Dichloromethane was added and the resultant white precipitate filtered off. The solvent was evaporated to give 1-[4-(2-chloro-5-fluoro-pyridin-3-yl)-phenyl]-ethylamine (0.11 g, 0.4 mmol, 100%) as a yellow gum. To a solution of (R)-1-[4-(2-chloro-5-fluoro-pyridin-3-yl)-phenyl]-ethylamine (26 mg, 0.1 mmol) in dichloromethane (1 ml) was added triethylamine (31.6 mg, 0.31 mmol) followed by 3,4-difluorobenzenesulfonyl chloride (28.7 mg, 0.14 mmol). The reaction mixture was agitated for 64 h at room temperature and the solvent evaporated. The crude product was taken up in dimethyl sulfoxide (1 ml) and purified by preparatory LCMS. The solvent was evaporated under reduced pressure to give the title compound (6.7 mg, 0.04 mmol, 38%). 1H NMR (400 MHz, DMSO-d6): δ 8.48 (m, 2H), 7.78 (dd, 1H), 7.45-7.60 (m, 3H), 7.27-7.34 (m, 4H), 4.50 (q, 1H), 1.33 (d, 3H) ppm; MS (ESI) m/z: 427 [M+H]+.

reactant | (R)-1-[4-(2-chloro-5-fluoro-pyridin-3-yl)-phenyl]-ethylamine | 0.1 mmol, 26 mg | ClC1=NC=C(C=C1C1=CC=C(C=C1)[C@@H](C)N)F | C13H12ClFN2
reactant | triethylamine | 0.31 mmol, 31.6 mg | C(C)N(CC)CC | C6H15N
reactant | 3,4-difluorobenzenesulfonyl chloride | 0.14 mmol, 28.7 mg | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (R)—N-{1-[4-(2-Chloro-5-fluoro-pyridin-3-yl)-phenyl]-ethyl}-3,4-difluoro-benzenesulfonamide | 0.04 mmol, 6.7 mg, 38% | ClC1=NC=C(C=C1C1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C1=CC(=C(C=C1)F)F)F | C19H14ClF3N2O2S
